US05981533
4-Benzylamino-3-(3-methyl-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine
Under a nitrogen atmosphere, a mixture of 1 g (3.74 mmol) of 4-cyano-5-(dimethylamino-methyleneamino)-3-(3-methyl-phenylamino)-pyrazole and 10 ml of benzylamine is stirred for 4 hours at 120° C. and then concentrated by evaporation under a HV. The crystalline residue is digested in 10 ml of acetonitrile and filtered and the filter residue is recrystallized from 40 ml of acetonitrile, yielding the title compound; m.p. 200-201° C.

reactant | 4-cyano-5-(dimethylamino-methyleneamino)-3-(3-methyl-phenylamino)-pyrazole | 3.74 mmol, 1 g | C(#N)C=1C(=NNC1N=CN(C)C)NC1=CC(=CC=C1)C | C14H16N6
solvent | benzylamine | 10 ml | C(C1=CC=CC=C1)N | C7H9N
product | 4-Benzylamino-3-(3-methyl-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)NC1=C2C(=NC=N1)NN=C2NC2=CC(=CC=C2)C | C19H18N6
